US05486466
To a solution of 61 mg of methyl (4R, 7S)-7-amino-12,14-bis(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4-carboxylate and 21 mg N-(tert-butoxycarbonyl)-L-serine in 2 ml of acetonitrile, cooled to 0° C., were added 20 mg of N-(dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride. The mixture was stirred at 0° C. for 4 hours, then diluted with 30 ml of ethyl acetate, and washed successively with 0.5N hydrochloric acid, water, 5% sodium bicarbonate solution, and with brine. The organic layer was dried over sodium sulfate and evaporated in vacuo. The residue was dissolved in 2 ml of methanol, 20 mg of ammonium fluoride were added, and the mixture was stirred for 30 minutes at room temperature. The mixture was diluted with 40 ml of ethyl acetate and washed with 30 ml of water. The organic layer was dried over sodium sulfate, and the solvent was evaporated in vacuo. The solid residue was triturated with 2 ml of ether, then hexane was added, and the white solid was isolated by filtration to give 22 mg of methyl (4R, 7S)-7-[(S)-2-(1-tert-butoxyformamido)-3-hydroxypropionylamino]-1,3,4,5,6,7,8,10-octahydro-12,14-dihydroxy-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4-carboxylate.

reactant | methyl (4R, 7S)-7-amino-12,14-bis(tert-butyldimethylsilyloxy)-1,3,4,5,6,7,8,10-octahydro-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4-carboxylate | 61 mg | N[C@@H]1C(N[C@@H](CSCC2=C(C(OC1)=O)C(=C(C=C2O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)C(=O)OC)=O | C28H48N2O7SSi2
reactant | N-(tert-butoxycarbonyl)-L-serine | 21 mg | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | N-(dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 20 mg | Cl.CN(C)CCCN=C=NCC
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | methyl (4R, 7S)-7-[(S)-2-(1-tert-butoxyformamido)-3-hydroxypropionylamino]-1,3,4,5,6,7,8,10-octahydro-12,14-dihydroxy-11-methyl-6,10-dioxo-9,2,5-benzoxathiaazacyclododecine-4-carboxylate | 22 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@@H]1C(N[C@@H](CSCC2=C(C(OC1)=O)C(=C(C=C2O)O)C)C(=O)OC)=O)CO | C24H33N3O11S
